US08008307B2
Step d: [(3aR,4R,6R,6aS)-6-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}-amino)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methyl sulfamate
To a solution of [(3aR,4R,6R,6aS)-6-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-methanol (100. mg, 0.252 mmol) and Et3N (0.0527 mL, 0.378 mmol) in DCM (2.50 mL) was added dropwise a 2.00 M solution of chlorosulfonamide in ACN (0.190 mL, 0.380 mmol) at 0° C. and the mixture was stirred for 2 h. The reaction was diluted with DCM, quenched with H2O and the organic layer was separated, then concentrated in vacuo. The residue was purified via silica gel chromatography eluting with a gradient of 0 to 10% MeOH in DCM to afford the title compound (65.0 mg, 54%). LC/MS: Rt=1.58 min, ES+ 476 (AA standard).

reactant | [(3aR,4R,6R,6aS)-6-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-methanol | 0.252 mmol | [C@@H]1(CCC2=CC=CC=C12)NC1=CC(=NC=N1)N[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C22H28N4O3
reactant | Et3N | 0.378 mmol, 0.0527 mL | CCN(CC)CC | C6H15N
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
reactant | ACN | 0.380 mmol, 0.190 mL | C(C)#N | C2H3N
solvent | DCM | 2.50 mL | C(Cl)Cl | CH2Cl2
product | [(3aR,4R,6R,6aS)-6-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}-amino)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methyl sulfamate | 65.0 mg, 54% | S(N)(OC[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)NC2=NC=NC(=C2)N[C@H]2CCC1=CC=CC=C21)(=O)=O | C22H29N5O5S
